data/oMe_Silver.jsonl
{"reaction_id": "NR-332_1-F_2-C(C)(C)C_3-SC_4-C(C)(C)C","level": "hard","name": "Reimer-Tiemann Formylation","reactants_smiles": ["c1(O)c(F)c(C(C)(C)C)c(SC)c(C(C)(C)C)c1","ClC(Cl)Cl","[OH-]"],"products_smiles": ["c1(O)c(F)c(C(C)(C)C)c(SC)c(C(C)(C)C)c1(C=O)"],"conditions": "Strong base (e.g., KOH), Heat","mechanism_step_nums": 7,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[C](Cl)Cl","step_weight": 0,"rationale": "Strong base abstracts a proton from chloroform, and the adjacent chloride leaves due to the stability of the resulting dichlorocarbene under these conditions."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(=O)C([C-](Cl)Cl)C(F)=C(C(C)(C)C)C(SC)=C1(C(C)(C)C)","step_weight": 0,"rationale": "The electron-rich aromatic ring, activated by the ortho/para-directing hydroxyl group, attacks the electrophilic dichlorocarbene to form a cyclohexadienyl intermediate."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1([O-])c(F)c(C(C)(C)C)c(SC)c(C(C)(C)C)c1(C(Cl)Cl)","step_weight": 0,"rationale": "Base deprotonates the phenolic OH, increasing electron density on the ring and stabilizing the intermediate via resonance."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1(=O)C(=CCl)C(C(C)(C)C)=C(SC)C(C(C)(C)C)=C1(F)","step_weight": 0,"rationale": "Loss of chloride from the benzylic position is favored due to resonance stabilization of the resulting cationic character in the aromatic system."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1([O-])c(C(O)Cl)c(C(C)(C)C)c(SC)c(C(C)(C)C)c1(F)","step_weight": 0,"rationale": "Hydroxide attacks the electrophilic carbon bearing chlorine, driven by the strong leaving group ability of chloride and the polar medium."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1(=O)C(=CO)C(C(C)(C)C)=C(SC)C(C(C)(C)C)=C1(F)","step_weight": 0,"rationale": "Elimination of chloride from the geminal chlorohydrin intermediate forms the aldehyde functionality, favored by the stability of the carbonyl."},{"step": 7,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1(O)c(F)c(C(C)(C)C)c(SC)c(C(C)(C)C)c1(C=O)","step_weight": 0,"rationale": "Protonation of the phenoxide restores the neutral phenol, completing the ortho-formylation."}],"description": "Under strongly basic and heated conditions, chloroform undergoes deprotonation and α-elimination to generate dichlorocarbene, which electrophilically attacks the activated aromatic ring ortho to the hydroxyl group. Subsequent hydrolysis and elimination steps convert the carbene adduct into the ortho-formylated phenol via the Reimer–Tiemann pathway."}
{"reaction_id": "NR-105_1-C(F)(F)F_2-SC_3-S(=O)(=O)N(C)C_4-Cl_5-C(C)C","level": "medium","name": "Hemetsberger-Knittel Indole Synthesis","reactants_smiles": ["[N-]=[N+]=N/C(=C/c1c(Cl)c(S(=O)(=O)N(C)C)c(SC)c(C(F)(F)F)c1)\\C(=O)OC(C)C"],"products_smiles": ["c1c(C(=O)OC(C)C)[nH]c2c1c(Cl)c(S(=O)(=O)N(C)C)c(SC)c2C(F)(F)F"],"conditions": "Heat","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[N]/C(=C/c1c(Cl)c(S(=O)(=O)N(C)C)c(SC)c(C(F)(F)F)c1)\\C(=O)OC(C)C","step_weight": 0,"rationale": "Thermal conditions promote loss of N₂ from the azide due to its excellent leaving group ability, generating an electron-deficient nitrene stabilized by conjugation with the alkene."},{"step": 2,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "C(C)COC(=O)C1C=C2C(=[n]1)c(c(c(c2Cl)S(=O)(=O)N(C)C)SC)C(F)(F)F","step_weight": 0,"rationale": "The nitrene undergoes a 6π-electrocyclization driven by conjugation between the alkene and aromatic ring, forming the bicyclic indole skeleton under thermal control."},{"step": 3,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "c1c(C(=O)OC(C)C)[nH]c2c1c(Cl)c(S(=O)(=O)N(C)C)c(SC)c2C(F)(F)F","step_weight": 0,"rationale": "A sigmatropic hydrogen shift restores aromaticity in the heterocycle, as aromatization provides strong thermodynamic driving force for the rearrangement."}],"description": "Upon heating, the azide undergoes nitrogen extrusion to form a reactive nitrene intermediate, which then cyclizes via electrocyclization to form the indole framework. A subsequent sigmatropic rearrangement aromatizes the ring, yielding the substituted indole product."}
